US04426524
Under an argon atmosphere, a stirred solution of 5.7 g (0.026 mol) of 2-methyl-3-(2-thienyl)benzoic acid in 50 mL of tetrahydrofuran was cooled to 0° C.±2° C. To this solution was added dropwise 4.4 g (0.051 mol, 51.3 mL of a 1.0 M solution) of borane tetrahydrofuran complex. The addition was made over 35 minutes. The reaction mixture was stirred for 0.5 hour at ambient temperature, then for two hours at reflux temperature. The reaction mixture was cooled, and 100 mL of diethyl ether saturated with water, then 20 mL of water, were cautiously added. The mixture was transferred to a separatory funnel containing 50 mL of ice, and was saturated with solid sodium chloride, and extracted with three portions of 200 mL each of diethyl ether. The combined extracts were dried with magnesium sulfate, filtered, and the filtrate concentrated under reduced pressure to give 5.3 g of 2-methyl-3-(2-thienyl)phenylmethanol as an oil.

reactant | 2-methyl-3-(2-thienyl)benzoic acid | 0.026 mol, 5.7 g | CC1=C(C(=O)O)C=CC=C1C=1SC=CC1 | C12H10O2S
reactant | diethyl ether | 100 mL | C(C)OCC | C4H10O
reactant | water | O | H2O
reactant | water | 20 mL | O | H2O
reactant | sodium chloride | [Cl-].[Na+]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 2-methyl-3-(2-thienyl)phenylmethanol | 5.3 g | CC1=C(C=CC=C1C=1SC=CC1)CO | C12H12OS
